US08614242B2
3.2 g of 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxylic acid and 44.3 ml of thionyl chloride are refluxed for 5 hours. After cooling down, the reaction mixture is evaporated under vacuum to yield 3.5 g of 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride as a yellow oil. 1H NMR (400 MHz, CHCl3-d6) δ ppm: 3.97 (s, 3H); 7.00 (t, J=52.01 Hz, 1H); IR (TQ): 1759 and 1725 cm−1 (C═O).

reactant | 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 3.2 g | ClC1=C(C(=NN1C)C(F)F)C(=O)O | C6H5ClF2N2O2
reactant | thionyl chloride | 44.3 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride | 3.5 g | ClC1=C(C(=NN1C)C(F)F)C(=O)Cl | C6H4Cl2F2N2O
